US09427501B2
Saturated Coating Composition with Toluene/THF Solvent
Estradiol was combined with THF. Two parts by weight of polyethylenevinylacetate (PEVA) was combined with five parts by weight of poly-n-butyl methacrylate (PBMA) in toluene. The estradiol solution was combined with the PEVA/PBMA solution to form a coating solution containing 40 mg/ml total solids (30 wt. % estradiol, 20 wt. % PEVA, and 50 wt. % PBMA) and a solvent containing 80% toluene and 20% THF. The resulting solution was near the saturation point for estradiol in a solvent of 80% toluene and 20% THF at ambient temperature (approximately 21-22° C.).

reactant | Estradiol | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@@H]2O)O | C18H24O2
reactant | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Toluene THF | C1(=CC=CC=C1)C.C1CCOC1 | InChI=1S/C7H8.C4H8O/c1-7-5-3-2-4-6-7;1-2-4-5-3-1/h2-6H,1H3;1-4H2
